US07691893B2
Preparation 28: 1-(1,1-dimethylethyl) 3-methyl 4-oxo-1,3-piperidinedicarboxylate (P28)
To an ice cooled suspension of methyl 4-oxo-3-piperidinecarboxylate hydrochloride (15.01 g) in dichloromethane (250 mL) was added bis(1,1-dimethylethyl)dicarbonate (17.76 g), then triethylamine (27 mL) was added dropwise. The resulting mixture was allowed to reach room temperature and stirred for 4 h. Saturated NH4Cl was poured into the reaction mixture and the phases were separated, the organic layer was dried over Na2SO4, filtered and evaporated under reduced pressure. Diethylether was added to the residue and filtered over a celite pad. The solvent was removed under reduced pressure to obtain the title compound (16.96 g).

reactant | methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 15.01 g | Cl.O=C1C(CNCC1)C(=O)OC
reactant | bis(1,1-dimethylethyl)dicarbonate | 17.76 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 27 mL | C(C)N(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 1-(1,1-dimethylethyl) 3-methyl 4-oxo-1,3-piperidinedicarboxylate | 16.96 g | O=C1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C12H19NO5
